US07683075B2
2-Acetylamino-3-(2-[1,3]dioxan-2-yl-3-fluoro-phenyl)-acrylic acid methyl ester
A DMF (10 ml) solution of 2-(2-fluoro-6-iodo-phenyl)-[1,3]dioxane (1.85 g, 6 mmol), 2-acetylamino-acrylic acid methyl ester (906 mg, 6.33 mmol), sodium bicarbonate (1.26 g, 15 mmol), tetrabutyl ammonium chloride (1.35 g, 4.86 mmol) and palladium (II) acetate (52 mg, 0.23 mmol) is heated at 90° C. for 1.8 hours. The reaction mixture is poured onto water and the aqueous phase is extracted with ethylacetate. The organic layer is washed with brine and dried over MgSO4 and evaporated. The crude product is purified by chromatography (CH2Cl2/MeOH, 95/5) to afford the desired compound (240 mg). MS (ES+): m/e=346.3, (MNa+)

reactant | 2-(2-fluoro-6-iodo-phenyl)-[1,3]dioxane | 6 mmol, 1.85 g | FC1=C(C(=CC=C1)I)C1OCCCO1 | C10H10FIO2
reactant | 2-acetylamino-acrylic acid methyl ester | 6.33 mmol, 906 mg | COC(C(=C)NC(C)=O)=O | C6H9NO3
reactant | sodium bicarbonate | 15 mmol, 1.26 g | C([O-])(O)=O.[Na+]
catalyst | tetrabutyl ammonium chloride | 4.86 mmol, 1.35 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium (II) acetate | 0.23 mmol, 52 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-Acetylamino-3-(2-[1,3]dioxan-2-yl-3-fluoro-phenyl)-acrylic acid methyl ester | 240 mg | COC(C(=CC1=C(C(=CC=C1)F)C1OCCCO1)NC(C)=O)=O | C16H18FNO5
